US07741327B2
In a flask was placed 2-acetylamino-2-(2,2-difluoro-ethyl)-malonic acid diethyl ester (8.94 g, 31.78 mmol) and 6N aqueous hydrochloric acid (140 mL). This mixture was refluxed overnight. After this time, the mixture was cooled to room temperature and extracted with diethyl ether (100 mL) the aqueous layer was concentrated in vacuo, azeotroped with acetonitrile and dried under high vacuum to afford 2-amino-4,4-difluoro-butyric acid hydrochloride salt (5.39 g, 97%) as a cream colored solid.

reactant | 2-acetylamino-2-(2,2-difluoro-ethyl)-malonic acid diethyl ester | 31.78 mmol, 8.94 g | C(C)OC(C(C(=O)OCC)(CC(F)F)NC(C)=O)=O | C11H17F2NO5
reactant | hydrochloric acid | 6N, 140 mL | Cl | ClH
product | 2-amino-4,4-difluoro-butyric acid hydrochloride salt | 5.39 g, 97% | Cl.NC(C(=O)O)CC(F)F | InChI=1S/C4H7F2NO2.ClH/c5-3(6)1-2(7)4(8)9;/h2-3H,1,7H2,(H,8,9);1H
